US04514416
Synthesis of 4-amidino-2-methyoxycarbonylphenyl trans-4-aminomethylcyclohexanecarboxylate
To 9.0 ml of a 30% hydrogen bromide-acetic acid mixture, was added 2.8 g of 4-amidino-2-methoxycarbonylphenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate methanesulfonate. The mixture was stirred for one hour at room temperature, meanwhile the crystals dissolved in a few minutes, forming a uniform yellow solution. The reaction mixture was mixed with ethyl ether, and the crystals were collected by filtration, washed with ethyl ether, and dried to obtain 3.1 g a dried product. The dried product was recrsytallized from ethanol to obtain 1.3 g of colorless granular crystals of 4-amidino-2-methoxycarbonylphenyl trans-4-aminomethylcyclohexane carboxylate dihydrobromide.

reactant | 4-amidino-2-methoxycarbonylphenyl trans-4-aminomethylcyclohexane carboxylate dihydrobromide | Br.Br.NC[C@@H]1CC[C@H](CC1)C(=O)OC1=C(C=C(C=C1)C(N)=N)C(=O)OC
solvent | ethanol | C(C)O | C2H6O
product | 4-amidino-2-methyoxycarbonylphenyl trans-4-aminomethylcyclohexanecarboxylate | 1.3 g | NC[C@@H]1CC[C@H](CC1)C(=O)OC1=C(C=C(C=C1)C(N)=N)C(=O)OC | C17H23N3O4
